US06022894
EXAMPLE 16: Preparation of N-(2-Hydroxy-3-t-butoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 15, supra, t-butylglycidyl ether (142 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 106 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 310 (M+1. 0.3), 294 (0.5), 222 (1.8), 188 (67.9), 163 (14.6), 132 (100), 121 (19.1); 1H-NMR (CDCl3) δ 7.09 (2H, d, J=8.6), 6.82 (2H, d, J=8.6), 3.78 (3H, s), 3.68 (1H, m), 3.37 (2H, m), 2.27 (1H, dd, J=11.5 and 4.2), 2.63 (3H, m), 1.19 (9H, s), 1.05 (3H, s), 1.03 (3H, s); 13C-NMR (CDCl3) δ 156.0, 131.3, 130.3, 113.3, 72.9, 69.7, 64.5, 55.1, 52.9, 46.6, 44.7, 27.4, 26.9, 26.8.

reactant | t-butylglycidyl ether | 1.0 mmol, 142 mg | C(C)(C)(C)OCC1CO1 | C7H14O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-t-butoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 106 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COC(C)(C)C | C18H31NO3
